US06884607B2
1.6 g of calcium chloride (15 mmol) and 0.6 g (8.1 mmol) of calcium hydroxide were dissolved in 3.7 ml of water and stirred at room temperature for 20 minutes. At the same temperature, 2.00 g (10 mmol) of methyl 4-bromo-3-hydroxybutanoate was added dropwise over 5 minutes. After stirring for further ten minutes, the mixture was cooled by ice, and 0.6 g (12 mmol) of sodium cyanide was added thereto. Then, the mixture was stirred at an internal temperature of 25 to 33° C. for 4.5 hours. Then, concentrated hydrochloric acid was added dropwise in the reaction solution, and ethyl acetate was used for extraction five times. The organic layer was concentrated under reduced pressure to get 1.2 g of 4-cyano-3-hydroxybutanoic acid. The purity of the obtained 4-cyano-3-hydroxybutanoic acid was 91% (high-performance liquid chromatography in area percentage).

reactant | calcium chloride | 15 mmol, 1.6 g | [Cl-].[Ca+2].[Cl-]
reactant | calcium hydroxide | 8.1 mmol, 0.6 g | [OH-].[Ca+2].[OH-]
reactant | methyl 4-bromo-3-hydroxybutanoate | 10 mmol, 2.00 g | BrCC(CC(=O)OC)O | C5H9BrO3
reactant | sodium cyanide | 12 mmol, 0.6 g | [C-]#N.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 3.7 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-cyano-3-hydroxybutanoic acid | 1.2 g | C(#N)CC(CC(=O)O)O | C5H7NO3
